US06194425B1
Potassium ethoxide (20.2 g) was added to a mixture of ethyl 3-(5-methyl-1H-tetrazol-1-yl)pyridine-4-carboxylate (28 g) and dimethylformamide (280 mL). The reaction mixture was allowed to stir at ambient temperature overnight then poured into cold dilute acetic acid. The resulting precipitate was collected, washed with water and dried to provide 22.4 g of tetrazolo[1,5-a][1,7]naphthyridin-5-ol hydrate as a solid, m.p. 247-248° C. (decomposition). Analysis: Calculated for C8H5N5O: % C, 46.83; % H, 3.44; % N, 34.13; Found: % C, 46.48; % H, 3.42; % N, 34.03.

reactant | Potassium ethoxide | 20.2 g | [O-]CC.[K+]
reactant | ethyl 3-(5-methyl-1H-tetrazol-1-yl)pyridine-4-carboxylate | 28 g | CC1=NN=NN1C=1C=NC=CC1C(=O)OCC | C10H11N5O2
reactant | dimethylformamide | 280 mL | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | tetrazolo[1,5-a][1,7]naphthyridin-5-ol hydrate | 22.4 g | O.N1=NN=C2N1C1=CN=CC=C1C(=C2)O | InChI=1S/C8H5N5O.H2O/c14-7-3-8-10-11-12-13(8)6-4-9-2-1-5(6)7;/h1-4,14H;1H2
